US06825188B2
c) Methyl (S)-3-oxo-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A solution of methyl (S)-8-(3-amino-1-propyloxy)-3-oxo-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.09 g, 0.19 mmol), 2-bromopyrimidine (0.09 g, 0.57 mmol) and diisopropylethylamine (0.17 mL, 0.98 mmol) in DMF (2 mL) was heated at 80° C. for 18 h. The reaction was allowed to cool to RT and was concentrated to give a yellow residue. Flash chromatography on silica gel (2% MeOH/EtOAc) gave the title compound (42 mg) as a clear oil. MS (ES) m/e 543.1 (M+H)+.

reactant | methyl (S)-8-(3-amino-1-propyloxy)-3-oxo-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.19 mmol, 0.09 g | NCCCOC1=CC2=C(C[C@H](C(N(C2)CC2=CC=C(C=C2)C(F)(F)F)=O)CC(=O)OC)C=C1 | C24H27F3N2O4
reactant | 2-bromopyrimidine | 0.57 mmol, 0.09 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | diisopropylethylamine | 0.98 mmol, 0.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl (S)-3-oxo-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-2-[4-(trifluoromethyl)benzyl]-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 42 mg | O=C1N(CC2=C(C[C@H]1CC(=O)OC)C=CC(=C2)OCCCNC2=NC=CC=N2)CC2=CC=C(C=C2)C(F)(F)F | C28H29F3N4O4
